US05753664
1,7-Bis[4-(4-chlorobenzoyl)benzyl]-3-methylxanthine
A solution of 3-methylxanthine (204 mg), potassium carbonate (340 mg) and 4-(4-chlorobenzoyl)benzyl bromide (754 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate =1:1) and recrystallized from ethyl acetate-hexane to provide the title compound as colorless solid (184 mg).

reactant | 3-methylxanthine | 204 mg | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | potassium carbonate | 340 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 754 mg | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1,7-Bis[4-(4-chlorobenzoyl)benzyl]-3-methylxanthine | 184 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C(=O)N(C=4N=CN(C4C3=O)CC3=CC=C(C=C3)C(C3=CC=C(C=C3)Cl)=O)C)C=C2)C=C1 | C34H24Cl2N4O4
